US07858621B2
To 3-(6-bromo-pyridin-3-yl)-acrylic acid methyl ester (120 mg, 0.495 mmol) in THF was added a solution of 0.5 N-LiOH (2 eq) and the mixture was stirred for 3 hrs at room temperature. The resulting residue was dissolved in H2O, then washed three times with Et2O, and neutralized with 1N HCl to pH 5˜7. The resulting solid filtered and washed with H2O and then dried in vacuo to give 3-(6-bromo-pyridin-3-yl)-acrylic acid (100 mg, 88%).

reactant | 3-(6-bromo-pyridin-3-yl)-acrylic acid methyl ester | 0.495 mmol, 120 mg | COC(C=CC=1C=NC(=CC1)Br)=O | C9H8BrNO2
reactant | LiOH | 2 eq | [Li+].[OH-]
solvent | THF | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | 3-(6-bromo-pyridin-3-yl)-acrylic acid | 100 mg, 88% | BrC1=CC=C(C=N1)C=CC(=O)O | C8H6BrNO2
